US05037825
6.6 g of [1-(2,2-dimethyl-1,3-benzodithiol-5-yl)ethyl]triphenylphosphonium bromide were dissolved in 40 ml of tetrahydrofuran and treated slowly at 0° C. with 9 ml of a 1.5 molar solution of n-butyllithium in hexane. After 40 minutes, 3.5 g of 4-(2-morpholinoethoxy)benzaldehyde in 10 ml of tetrahydrofuran were added dropwise to the dark red solution and the mixture was stirred at 20° C. for 16 hours. The mixture was then poured on to ice and extracted with ethyl acetate. The combined extracts were washed with water, dried and evaporated. After chromatography (silica gel, eluting agent ethyl acetate) and crystallization from ether/hexane, there were obtained 1.8 g of 4-[2-[p-[(E)-2-(2,2-dimethyl-1,3-benzodithiol-5-yl)propenyl]phenoxy]ethyl]morpholine in the form of colorless crystals, melting point 90°-91° C.

reactant | [1-(2,2-dimethyl-1,3-benzodithiol-5-yl)ethyl]triphenylphosphonium bromide | 6.6 g | [Br-].CC1(SC2=C(S1)C=CC(=C2)C(C)[P+](C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)C
reactant | n-butyllithium | C(CCC)[Li]
reactant | 4-(2-morpholinoethoxy)benzaldehyde | 3.5 g | O1CCN(CC1)CCOC1=CC=C(C=O)C=C1 | C13H17NO3
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
product | 4-[2-[p-[(E)-2-(2,2-dimethyl-1,3-benzodithiol-5-yl)propenyl]phenoxy]ethyl]morpholine | 1.8 g | CC1(SC2=C(S1)C=CC(=C2)/C(=C/C2=CC=C(OCCN1CCOCC1)C=C2)/C)C | C24H29NO2S2
